US05958942
4,5-Dihydro-4[5-(tert-butoxycarbonylamino)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-5-one
A solution of 7.78 g (20 mmol) of 3-[(trimethylammonio)methyl]-5-ethoxycarbonylimidazo [1,2-a]pyridine iodide, 6.07 g (30 mmol) of 5-tert-butoxycarbonylamino-1-pentylamine and 5.58 ml (40 mmol) of triethylamine was heated for 64 hours under reflux. The solvent was distilled off. To the residue was added methylene chloride, washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate/ethanol=10:1) to afford 3.93 g of the desired compound (54.9%, a pale yellow solid).

reactant | 3-[(trimethylammonio)methyl]-5-ethoxycarbonylimidazo [1,2-a]pyridine iodide | 20 mmol, 7.78 g | [I-].C[N+](C)(C)CC1=CN=C2N1C(=CC=C2)C(=O)OCC
reactant | 5-tert-butoxycarbonylamino-1-pentylamine | 30 mmol, 6.07 g | C(C)(C)(C)OC(=O)NCCCCCN | C10H22N2O2
reactant | triethylamine | 40 mmol, 5.58 ml | C(C)N(CC)CC | C6H15N
product | 4,5-Dihydro-4[5-(tert-butoxycarbonylamino)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylen-5-one | 3.93 g | C(C)(C)(C)OC(=O)NCCCCCN1CC2=CN=C3C=CC=C(C1=O)N32 | C19H26N4O3
